US07897619B2
(S)-tert-Butyl 4-hydroxy-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate:
(S)-3-Amino-4-(4-(trifluoromethyl)phenyl)butan-1-ol was dissolved in 5 mL THF and 4 mL K2CO3 (1M, aq.) and BOC2O were added. The reaction was stirred over night and acidified (about pH 2). The reaction was extracted with EtOAc (3×100 mL), dried over MgSO4 and evaporated. The title compound was obtained as a white solid and used without further purification. LCMS (API-ES) m/z (%): 333.1 (100%, M++H).

reactant | (S)-3-Amino-4-(4-(trifluoromethyl)phenyl)butan-1-ol | N[C@H](CCO)CC1=CC=C(C=C1)C(F)(F)F | C11H14F3NO
reactant | K2CO3 | 1M, 4 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | BOC2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-Butyl 4-hydroxy-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | OCC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H22F3NO3
